US06147088
Step 12.2C 2-{2-[7-chloro-6-[(diisopropylcarbamoyl)-methyl]-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-{2-[6-carboxymethyl-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (57 mg in 0.50 mL methylene chloride) was added 0.042 mL diisopropylamine followed by 98 mg 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) and 6.1 mg dimethylaminopyridine, and the mixture stirred at room temperature. After 42 hours, the mixture was diluted with methylene chloride and washed with water and brine. The organics were dried over sodium sulfate and the concentrate purified by flash chromatography on silica gel (methylene chloride:methanol:ammonium hydroxide, 97:2:1) to give the title compound (41 mg).

reactant | 2-{2-[6-carboxymethyl-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.50 mL, 57 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)CC(=O)O)Cl)=O)C1=CC(=CC(=C1)C)C | C31H37ClN2O6
reactant | diisopropylamine | 0.042 mL | C(C)(C)NC(C)C | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 98 mg | Cl.CN(CCCN=C=NCC)C
reactant | dimethylaminopyridine | 6.1 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-{2-[7-chloro-6-[(diisopropylcarbamoyl)-methyl]-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 41 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)CC(N(C(C)C)C(C)C)=O)Cl)=O)C1=CC(=CC(=C1)C)C | C37H50ClN3O5
